US08183272B2
(1b) 1-(2-Bromo-3-methoxyphenyl)ethanone
Under a nitrogen atmosphere, 2-bromo-N,3-dimethoxy-N-methylbenzamide (16.8 g, 61.5 mmol) which had been obtained in Reference example 1(1a) was dissolved in tetrahydrofuran (300 mL), and added dropwise with a 1.0 M solution of methyl magnesium bromide in tetrahydrofuran (123 mL, 123 mmol) at 0° C. Upon the completion of the dropwise addition, the temperature of the reaction solution was raised to room temperature and stirred for 15 hours. The reaction solution was added with ethyl acetate and 1 N aqueous hydrochloric acid solution for fractionation, and the aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate, 100:0 to 60:40, V/V) to give the title compound as a colorless oily substance (12.7 g, yield 90%).

reactant | 2-bromo-N,3-dimethoxy-N-methylbenzamide | 61.5 mmol, 16.8 g | BrC1=C(C(=O)N(C)OC)C=CC=C1OC | C10H12BrNO3
reactant | methyl magnesium bromide | C[Mg]Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 123 mmol, 123 mL | O1CCCC1 | C4H8O
product | 1-(2-Bromo-3-methoxyphenyl)ethanone | yield 90% | BrC1=C(C=CC=C1OC)C(C)=O | C9H9BrO2
